US05663440
Then, a solution of 30.0 g (0.064 mole) of 1,1-bis(4-(4-nitrobenzoyl)phenyl)methane in 1 liter of tetrahydrofuran was added dropwise for 1 hour, and stirred for 8 hours with maintaining at 3° to 5° C. At that time, hue was changed to dark purple. After the end of the reaction was confirmed by a liquid chromatography, the solution was poured in 400 milliliters of ice water, and extracted with 800 milliliters of chloroform after adding 400 milliliters of a 4N-HCl aqueous solution. Thereafter, the solution was washed with a 6N-HCl aqueous solution, an aqueous solution of sodium hydrogencarbonate, brine and water, and then removed off chloroform by a rotary evaporator. The residue was dissolved in toluene and treated with a silica gel (800 g) column, to obtain 17.1 g of 1,1-bis(4-(1-(4-nitrophenyl)butylidene)phenyl)methane as highly viscous oil.

reactant | 1,1-bis(4-(4-nitrobenzoyl)phenyl)methane | 0.064 mole, 30.0 g | [N+](=O)([O-])C1=CC=C(C(=O)C2=CC=C(C=C2)CC2=CC=C(C=C2)C(C2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C27H18N2O6
solvent | tetrahydrofuran | 1 liter | O1CCCC1 | C4H8O
product | 1,1-bis(4-(1-(4-nitrophenyl)butylidene)phenyl)methane | 17.1 g | [N+](=O)([O-])C1=CC=C(C=C1)C(CCC)=C1CC=C(C=C1)CC1=CCC(C=C1)=C(CCC)C1=CC=C(C=C1)[N+](=O)[O-] | C33H34N2O4
